
.subckt pot100k 1 2 3
R1 1 2 50k
R2 2 3 50k
.ends

.subckt pot100k_lowish 1 2 3
R1 1 2 25k
R2 2 3 75k
.ends

.subckt pot100k_low 1 2 3
R1 1 2 1k
R2 2 3 99k
.ends

.subckt pot100k_highish 1 2 3
R1 1 2 75k
R2 2 3 25k
.ends

.subckt pot100k_high 1 2 3
R1 1 2 99k
R2 2 3 1k
.ends


.subckt pot2_2Meg 1 2 3
R1 1 2 1100k
R2 2 3 1100k
.ends

.subckt pot2_2Meg_lowish 1 2 3
R1 1 2 550k
R2 2 3 1650k
.ends

.subckt pot2_2Meg_low 1 2 3
R1 1 2 1k
R2 2 3 1199k
.ends

.subckt pot2_2Meg_highish 1 2 3
R1 1 2 1650k
R2 2 3 550k
.ends

.subckt pot2_2Meg_high 1 2 3
R1 1 2 1199k
R2 2 3 1k
.ends
