.subckt MY_EURORACK_POWER_MODEL negative ground positive logic
V1 GND -12 -12
V2 +12v GND 12
V3 +5V GND 5
.ends

.subckt MY_EURORACK_POWER_SHORT 1 2 3 4 5 6 7 8 9 10
X1 1 3 5 6 MY_EURORACK_POWER_MODEL
.ends

.subckt MY_EURORACK_POWER 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16
X1 1 3 5 6 MY_EURORACK_POWER_MODEL
* TODO: implement gate and cv voltage sources
.ends
