* TL071 Op Amp Model
* Version: 003 
* Date: 12/07/2018
* Author: Nazar Shtybel
* E-mail: nazar@s-audio.systems
* 
* The following parameters are modeled:
* 1. Open loop gain and phase with RL and CL effects
* 2. AC/DC Common mode rejection ratio
* 3. AC/DC Power supply rejection ratio
* 4. Slew rate
* 5. Input voltage noise with 1/f
* 6. Input curent noise with 1/f
* 7. Input bias current with temperature effects
* 8. Input offset current with temperature effects
* 9. Input offset voltage with temperature effects
* 10. Input impedance
* 11. Output current through the supply rails
* 12. Output current limit 
* 13. Output voltage swing from rails with RL effects
* 14. Output impedance
* 15. Quiescent current vs Supply voltage with temperature effects
* 16. Maximum supply voltage breakdown
* 17. Overload recovery / No phase reversal
* 18. Input common mode voltage range
*
* Connections:
*                       Non-Inverting Input
*                       | Inverting Input
*                       | | +Supply Voltage
*                       | | | -Supply Voltage
*                       | | | | Output
*                       | | | | | 
.SUBCKT MY_TL07N_MODEL  1 2 3 4 5
  D1 8 10 DX
  D3 7 10 DX
  D2 9 8 DX
  D4 9 7 DX
  E4 7 19 15 0 1
  R9 16 15 1
  R7 11 12 1
  R8 13 11 1
  G3 0 15 11 14 0.00002
  L1 16 0 1.17m
  E1 12 0 1 0 1
  E2 13 0 2 0 1
  E5 19 22 21 0 1
  R13 0 21 19k
  E3 14 4 3 4 0.5
  R10 0 16 20k
  C2 0 2 3p
  C1 1 0 3p
  E6 22 28 3 4 0.00002
  G2 2 0 6 0 0.92
  R4 6 0 1E-12 TC=130e-2
  I1 0 6 68
  G1 1 0 6 0 1
  R2 1 2 1E+12
  R1 0 1 1E+12
  R3 2 0 1E+12
  R24 39 0 1
  C4 39 0 13m
  G10 0 39 36 0 1
  G9 0 36 30 8 200000
  R23 36 0 1
  D9 36 37 DX
  D11 38 36 DX
  D12 38 0 DSRN
  D10 0 37 DSRP
  G11 0 40 39 0 1
  R25 40 0 1
  C5 40 0 4.5n
  V3 20 0 0.235
  D5 20 21 DN
  R20 0 34 6E-9
  V5 33 0 0.235
  D7 33 34 DNC
  G7 0 2 34 0 1
  R19 0 32 6E-9
  V4 31 0 0.235
  D6 31 32 DNC
  G6 0 1 32 0 1
  G12 0 41 40 0 1
  R26 41 0 1
  C6 41 0 4.5n
  C8 50 42 1p
  D13 42 43 DX
  E9 43 0 45 42 10
  D14 44 42 DX
  E10 44 0 46 42 10
  R21 3 4 1Meg
  D8 4 3 DB
  G8 3 4 35 0 1
  R22 0 35 1 TC=-2.7e-3
  I3 0 35 0.00135
  E8 28 30 29 0 1
  R18 0 29 1 TC=5.0e-3
  I2 29 0 0.0035
  L5 54 5 10n
  R28 50 45 1
  I4 50 45 9.65
  R29 50 46 1
  I5 46 50 9.65
  G13 0 42 41 0 1
  R27 42 0 1
  C7 42 0 4.5n
  R5 7 1 100
  R6 8 2 100
  V2 3 10 -0.8
  V1 9 4 3
  G14 50 49 49 42 0.004
  G15 51 50 42 51 0.004
  R30 49 50 250
  R31 50 51 250
  D15 48 49 DX
  D16 51 52 DX
  D17 50 49 DY
  D18 51 50 DY
  R32 54 50 1
  V7 47 48 1.3
  V8 52 53 1.3
  E11 3 47 50 54 240
  E12 4 53 50 54 240

  .model DX D(IS=1E-15)
  .model DN D(KF=550e-15)
  .model DY D(IS=1E-15 BV=50)
  .model DB D(BV=46)
  .model DNC D(KF=100e-2)
  .model DSRP D(BV=160K)
  .model DSRN D(BV=160K)

.ENDS MY_TL07N_MODEL


* TL072 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS RELEASE 4.01 ON 06/16/89 AT 13:08
* (REV N/A)      SUPPLY VOLTAGE: +/-15V
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT OFFICIAL_TL072_MODEL    1 2 3 4 5
*
  C1   11 12 3.498E-12
  C2    6  7 15.00E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
  FB    7 99 POLY(5) VB VC VE VLP VLN 0 4.715E6 -5E6 5E6 5E6 -5E6
  GA    6  0 11 12 282.8E-6
  GCM   0  6 10 99 8.942E-9
  ISS   3 10 DC 195.0E-6
  HLIM 90  0 VLIM 1K
  J1   11  2 10 JX
  J2   12  1 10 JX
  R2    6  9 100.0E3
  RD1   4 11 3.536E3
  RD2   4 12 3.536E3
  RO1   8  5 150
  RO2   7 99 150
  RP    3  4 2.143E3
  RSS  10 99 1.026E6
  VB    9  0 DC 0
  VC    3 53 DC 2.200
  VE   54  4 DC 2.200
  VLIM  7  8 DC 0
  VLP  91  0 DC 25
  VLN   0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=15.00E-12 BETA=270.1E-6 VTO=-1)
.ENDS


* TL072 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS RELEASE 4.01 ON 06/16/89 AT 13:08
* (REV N/A)      SUPPLY VOLTAGE: +/-15V
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT MOUSER_TL072    1 2 3 4 5
  C1   11 12 3.498E-12
  C2    6  7 15.00E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
  FB    7 99 POLY(5) VB VC VE VLP VLN 0 4.715E6 -5E6 5E6 5E6 -5E6
  GA    6  0 11 12 282.8E-6
  GCM   0  6 10 99 8.942E-9
  ISS   3 10 DC 195.0E-6
  HLIM 90  0 VLIM 1K
  J1   11  2 10 JX
  J2   12  1 10 JX
  R2    6  9 100.0E3
  RD1   4 11 3.536E3
  RD2   4 12 3.536E3
  RO1   8  5 150
  RO2   7 99 150
  RP    3  4 2.143E3
  RSS  10 99 1.026E6
  VB    9  0 DC 0
  VC    3 53 DC 2.200
  VE   54  4 DC 2.200
  VLIM  7  8 DC 0
  VLP  91  0 DC 25
  VLN   0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=15.00E-12 BETA=270.1E-6 VTO=-1)
.ENDS


.SUBCKT CHOSEN_TL071_MODEL 1 2 3 4 5
  X1 1 2 3 4 5 MOUSER_TL072
*  X1 1 2 3 4 5 MY_TL07N_MODEL
*  X1 1 2 3 4 5 OFFICIAL_TL072_MODEL
.ENDS


.SUBCKT MY_TL071    1 2 3 4 5 6 7 8
  X1 3 2 7 4 6 CHOSEN_TL071_MODEL
.ENDS

.SUBCKT MY_TL072    1 2 3 4 5 6 7 8
  X1 3 2 8 4 1 CHOSEN_TL071_MODEL
  X2 5 6 8 4 7 CHOSEN_TL071_MODEL
.ENDS

.SUBCKT MY_TL074    1 2 3 4 5 6 7 8 9 10 11 12 13 14
  X1 3 2 4 11 1 CHOSEN_TL071_MODEL
  X2 5 6 4 11 7 CHOSEN_TL071_MODEL
  X3 10 9 4 11 8 CHOSEN_TL071_MODEL
  X4 12 13 4 11 14 CHOSEN_TL071_MODEL
.ENDS
